US08404859B2
Preparation of 3-Isopropyl-thiophene-2,5-dicarboxylic acid 2-methyl ester
To a solution of 5-Formyl-3-isopropyl-thiophene-2-carboxylic acid methyl ester (0.51 g, 2.40 mmol) in dioxane (12 ml) was added 2-methyl-2-butene (3 ml) and a solution of Na2ClO2 (0.65 g, 7.21 mmol) and NaH2PO4 (0.79 g) in water (3 ml). The mixture was stirred at rt for 2 h. The solution was saturated with sodium chloride, then successively extracted with EtOAc. The combined organic layers were dried over Na2SO4 and concentrated under reduced pressure to afford the desired product (0.45 g, 82% yield).

reactant | 5-Formyl-3-isopropyl-thiophene-2-carboxylic acid methyl ester | 2.40 mmol, 0.51 g | COC(=O)C=1SC(=CC1C(C)C)C=O | C10H12O3S
reactant | 2-methyl-2-butene | 3 ml | CC(C)=CC | C5H10
reactant | sodium chloride | [Cl-].[Na+]
reactant | dioxane | 12 ml | O1CCOCC1 | C4H8O2
solvent | water | 3 ml | O | H2O
product | 3-Isopropyl-thiophene-2,5-dicarboxylic acid 2-methyl ester | 0.45 g, 82% yield | COC(=O)C=1SC(=CC1C(C)C)C(=O)O | C10H12O4S
